US07579349B2
1-tert-Butyloxy-2-(2H-tetrazol-5-yl)pyrrolidine
A mixture of tert-butyloxy-2-cyanopyrrolidine (3 g, 15.3 mmol), sodium azide (1.49 g, 23.0 mmol) and ammonium chloride (1.22 g, 23 mmol) in DMF (15 ml) were heated at 95° C. for 48 hours. The reaction was then partitioned between ethyl acetate and water. The organics were separated, dried (MgSO4) and the volatiles removed by evaporation. The residue was triturated with diethyl ether and collected by filtration to give the title compound (0.79 g, 22%) as a white solid.

reactant | tert-butyloxy-2-cyanopyrrolidine | 15.3 mmol, 3 g | C(C)(C)(C)ON1C(CCC1)C#N | C9H16N2O
reactant | sodium azide | 23.0 mmol, 1.49 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 23 mmol, 1.22 g | [Cl-].[NH4+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 1-tert-Butyloxy-2-(2H-tetrazol-5-yl)pyrrolidine | 0.79 g, 22% | C(C)(C)(C)ON1C(CCC1)C=1N=NNN1 | C9H17N5O
